US05498795
5-Bromo-2-t-butylphenol (Compound D)
To a solution of 29.46 g (170.3 mmol) of 3-bromophenol (distilled) and 16.41 g (20.9 ml, 221.3 mmol) of t-butanol in 100 ml of carbon tetrachloride was added 20.0 ml of conc. sulfuric acid. The clear, colorless solution turned a dark magenta color and became hot. The solution was cooled in water (ambient temperature) and allowed to stir at room temperature for 84 hours. The reaction mixture was neutralized with sat. aqueous NaHCO3 solution (pH~7.0), partitioned between 300 ml of water and 500 ml of dichloromethane, and the organic and aqueous layers were separated. The aqueous phase was washed with 2×500 ml-portions of dichloromethane. All organic phases were combined, washed with 400 ml of brine solution, dried over MgSO4, filtered and concentrated in vacuo to a purple oil. Purification by flash chromatography (silica, 5% ethyl acetate in hexane) followed by kugelrohr distillation yielded the title compound as a clear, slightly yellow oil.

reactant | 3-bromophenol | 170.3 mmol, 29.46 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | t-butanol | 221.3 mmol, 20.9 ml, 16.41 g | C(C)(C)(C)O | C4H10O
reactant | sulfuric acid | 20.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | pH~7.0 | C(=O)(O)[O-].[Na+]
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
product | 5-Bromo-2-t-butylphenol | BrC=1C=CC(=C(C1)O)C(C)(C)C | C10H13BrO
